US07105526B2
(1) Preparation of 2,5,6,-trichloro-N-tetrahydropyranyl-benzimidazole
To a solution of 2,5,6-trichlorobenzimidazole (2.07 g, 9.33 mmol) in tetrahydrofuran (20 mL) were added 3,4-dihydro-2H-pyran (2.55 mL, 28.0 mmol) and camphor sulfonic acid (216 mg, 0.93 mmol). The mixture was stirred at room temperature for 3 hours, and the reaction mixture was neutralized by addition of 0.1M aqueous sodium hydroxide, then extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated in vacuo. The residue was purified by silica gel column chromatography (C-300, hexane:ethyl acetate=4:1) to give the title compound (487 mg, 9%).

reactant | 2,5,6-trichlorobenzimidazole | 9.33 mmol, 2.07 g | ClC=1NC2=C(N1)C=C(C(=C2)Cl)Cl | C7H3Cl3N2
reactant | 3,4-dihydro-2H-pyran | 28.0 mmol, 2.55 mL | O1CCCC=C1 | C5H8O
reactant | camphor sulfonic acid | 0.93 mmol, 216 mg | C12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
reactant | sodium hydroxide | 0.1M | [OH-].[Na+]
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 2,5,6,-trichloro-N-tetrahydropyranyl-benzimidazole | 487 mg, 9% | ClC1=NC2=C(N1C1OCCCC1)C=C(C(=C2)Cl)Cl | C12H11Cl3N2O
